US07247734B2
This compounds was synthesised in the same manner as described above. 6-Chloro-7-hydroxy-3-(3-methoxy-phenyl)-chromen-4-on (1.0 g, 3.3 mmol), Hydrazine hydrate (8 ml). The quenched reaction was extracted into ethyl acetate, washed (water), dried (MgSO4), and the solvent removed under vacuum to give 4-Chloro-6-[4-(3-methoxy-phenyl)-1H-pyrazol-3-yl]-benzene-1,3-diol as a white solid (0.48 g, 46%); Rf 0.5 ethyl acetate/hexane (80/20)].

reactant | 6-Chloro-7-hydroxy-3-(3-methoxy-phenyl)-chromen-4-on | 3.3 mmol, 1.0 g | ClC=1C=C2C(C(=COC2=CC1O)C1=CC(=CC=C1)OC)=O | C16H11ClO4
reactant | Hydrazine hydrate | 8 ml | O.NN
product | 4-Chloro-6-[4-(3-methoxy-phenyl)-1H-pyrazol-3-yl]-benzene-1,3-diol | 0.48 g, 46% | ClC1=C(C=C(C(=C1)C1=NNC=C1C1=CC(=CC=C1)OC)O)O | C16H13ClN2O3
